US06821980B1
N-[4′-(2,4-Diamino-pyrimidin-5-ylmethyl)-2′,6′-diethoxy-biphenyl-3-yl]-methanesulphonamide
5-(3′-Amino-2,6-diethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine (228 mg; 0.6 mmol) is dissolved in dimethylformamide (6 ml; dried over a molecular sieve), triethylamine (0.090 ml; 0.66 mmol) is added at room temperature, and the mixture is cooled to 0° C. and a solution of methanesulphonyl chloride (0.051 ml; 0.66 mmol) in dimethylformamide (1.0 ml) is added in the course of 5 minutes. After 1 hour at 0-5° C. the reaction mixture is concentrated and the residue is taken up in water, after which the pH is adjusted to 10 by addition of NH4OH conc. After stirring for 15 minutes the mixture is filtered with suction and the residue is dried under a high vacuum and chromatographed over silica gel (60 g) with methylene chloride/methanol/NH4OH conc. (19/1/0.05).

reactant | 5-(3′-Amino-2,6-diethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 0.6 mmol, 228 mg | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OCC | C21H25N5O2
reactant | triethylamine | 0.66 mmol, 0.090 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.66 mmol, 0.051 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-[4′-(2,4-Diamino-pyrimidin-5-ylmethyl)-2′,6′-diethoxy-biphenyl-3-yl]-methanesulphonamide | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC(=CC=C1)NS(=O)(=O)C)OCC | C22H27N5O4S
